US05288750
3-(4-Trifluoromethylbenzylidene)-2,4-pentanedione
4-Trifluoromethylbenzaldehyde (8,7 g) was condensed with 2,4-pentanedione (5,01 g) in a similar manner as described above. The crude product was crystallized from a mixture of ether-petroleum ether (1:1), mp 46°-48° C., yield 3.8 g (30%).

reactant | 4-Trifluoromethylbenzaldehyde | 8,7 g | FC(C1=CC=C(C=O)C=C1)(F)F | C8H5F3O
reactant | 2,4-pentanedione | 5,01 g | CC(CC(C)=O)=O | C5H8O2
product | 3-(4-Trifluoromethylbenzylidene)-2,4-pentanedione | FC(C1=CC=C(C=C(C(C)=O)C(C)=O)C=C1)(F)F | C13H11F3O2
